US06458935B1
A solution of 3-bromo-5-nitroanisole, as described above in Step B, (2.4 g, 10.3 mmol) in methylene chloride (50 mL) was cooled to 0° C. and treated with boron tribromide (1M in CH2Cl2, 158 mL, 158 mmol), giving a clear purple solution. The reaction was warmed slowly to room temperature and stirred at room temperature overnight and heated at reflux for 2.5 hours. The reaction was poured into ice/water, the layers were separated and extracted with methylene chloride. The aqueous layer was neutralized with aqueous saturated NaHCO3 and extracted with ethyl acetate. The organic layers were combined, dried (MgSO4), filtered and concentrated in vacuo. This material was purified by column chromatography (10:1 to 5:1 hexane:ethyl acetate). The fractions containing the product contaminated with the bromoanisole were pooled, concentrated and purified using radial, thin layer chromatography (hexane to 5:1 hexane:ethyl acetate) to give 3-bromo-5-nitrophenol as a yellow solid.

reactant | 3-bromo-5-nitroanisole | BrC=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | boron tribromide | 158 mmol, 1M, 158 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-nitrophenol | BrC=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4BrNO3
